US06156700
Preparation of 3-(6-Methoxy-m-tolyl)-1,2-benzisothiazol-5-yl isocyanate
A solution of 5-amino-3-(6-methoxy-m-tolyl)-1,2-benzisothiazole (157 g, 0.581 mol) in toluene is treated with phosgene (1,074 mL of a 20% solution in toluene, 2.06 mol), heated to and stirred at reflux for 5 hours, treated with additional phosgene (100 mL of a 20% solution in toluene), refluxed overnight, and concentrated in-vacuo to give the title product as a yellow-orange solid (169 g, 98.2%) which is identified by NMR spectral analyses.

reactant | 5-amino-3-(6-methoxy-m-tolyl)-1,2-benzisothiazole | 0.581 mol, 157 g | NC=1C=CC2=C(C(=NS2)C=2C=C(C(=CC2)OC)C)C1 | C15H14N2OS
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-(6-Methoxy-m-tolyl)-1,2-benzisothiazol-5-yl isocyanate | 169 g, 98.2% | COC1=CC=C(C=C1C)C1=NSC2=C1C=C(C=C2)N=C=O | C16H12N2O2S
